US04743601
Spiro[cyclohexane-1,3'-[3H][1,4]oxazino[2,3-c]quinoline]
A mixture of 5.5 g of 3-bromo-N-(1-hydroxycyclohexylmethyl)-4-quinolinamine, 2.2 g of potassium tert-butoxide and 50 ml of DMF was heated at 130° C. for 1 hour and then poured into 250 ml of water. The product was extracted with dichloromethane and ethyl acetate, dried and concentrated, and the residue was purified by HPLC using dichloromethane:MeOH=95:5 as the eluent. The fractions containing the product were combined and concentrated. The residue was taken up in water and stirred for 1 hour, and the solid was filtered and recrystallized from toluene. The yield was 2.6 g, mp 164°-165° C.

reactant | 3-bromo-N-(1-hydroxycyclohexylmethyl)-4-quinolinamine | 5.5 g | BrC=1C=NC2=CC=CC=C2C1NCC1(CCCCC1)O | C16H19BrN2O
reactant | potassium tert-butoxide | 2.2 g | CC(C)([O-])C.[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
product | Spiro[cyclohexane-1,3'-[3H][1,4]oxazino[2,3-c]quinoline] | N1=CC2(OC=3C=NC=4C=CC=CC4C31)CCCCC2 | C16H16N2O
